*
******************************************
*
*1N4148
*
*NXP Semiconductors
*
*High-speed diodes
*
*
*
*
* 
*
*
*
*
*
*
*VRRM = 100V
*IFRM = 450 mA 
*trr  = 4ns
*
*Package: SOD 27
*
*Package Pin 1 : Cathode
*Package Pin 2 : Anode
*
*
*
*
*Simulator: PSPICE
*
******************************************
*
.SUBCKT 1N4148 1 2 
*
* The resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 5.827E+9 
D1 1 2 1N4148
*
.MODEL 1N4148 D 
+ IS = 4.352E-9 
+ N = 1.906 
+ BV = 110 
+ IBV = 0.0001 
+ RS = 0.6458 
+ CJO = 7.048E-13 
+ VJ = 0.869 
+ M = 0.03 
+ FC = 0.5 
+ TT = 3.48E-9 
.ENDS
**
******************************************
*
*1N4735A
*
*NXP Semiconductors
*
*Voltage regulator diodes
*
*
*
*
* 
*
*IR    = 10?A  @ VR = 3V
*IZSM  = 730mA @ tp = 
*VZmax = 6,2V  @ IZ = 1mA
*
*
*
*
* 
*
*Package: SOD66
*
*Package Pin 1: Cathode 
*Package Pin 2: Anode
*
*
*
*
*Simulator: SPICE2
*
******************************************
*
.SUBCKT 1N4735A 1 2
*
* The resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 3E+9 
D1 1 2 1N4735A
*
.MODEL 1N4735A D 
+ IS = 1.803E-14 
+ N = 1.167 
+ BV = 6.2 
+ IBV = 0.041 
+ RS = 0.3264 
+ CJO = 6.85E-11 
+ VJ = 0.6947 
+ M = 0.3439 
+ FC = 0.5 
.ENDS
**
******************************************
*
*1PS10SB82
*
*NXP Semiconductors
*
*Schottky barrier diode
*
*
*
*
*IFSM =     @ tp = 
*VF = 700mV @ IF = 30mA
*
*
*
*
*
*
*
*
*
*Package: SOD882
*
*Package Pin 1 : Cathode 
*Package Pin 2 : Anode
* 
* 
*
*
*Simulator: PSPICE
*
******************************************
*
.SUBCKT 1PS10SB82 1 2 
*
* The resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 3E+7 
D1 1 2 1PS10SB82
*
.MODEL 1PS10SB82 D 
+ IS = 1.042E-8 
+ N = 1.029 
+ BV = 17 
+ IBV = 0.001 
+ RS = 5.567 
+ CJO = 9.779E-13 
+ VJ = 0.2925 
+ M = 0.194 
+ FC = 0.5 
+ EG = 0.69 
+ XTI = 2 
.ENDS
**
******************************************
